US08049013B2
5-[4-(Azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Dissolve 3-{4-[2-(4-chloro-phenyl)-4-oxo-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl]-2-methoxy-phenoxy}-azetidine-1-carboxylic acid tert-butyl ester (3.33 g, 6.16 mmol) in CH2Cl2 (21 mL) and add trifluoroacetic acid (7.25 mL). Stir for one hour at room temperature and then add 1 N NaOH to adjust to pH=8-10. Extract with EtOAc (3×50 mL) and wash with water (2×50 mL). Collect an off-white solid via vacuum filtration (2.15 g, 79%). Re-dissolve a portion of the crude material (300 mg, 0.68 mmol) in CHCl3 and add 4 N HCl/dioxane solution (about 200 μL). Remove the organic solvent via reduced pressure to dryness to give 316 mg of the titled compound. ES/MS m/z (35Cl) 442.0 [M+1]+.

reactant | 3-{4-[2-(4-chloro-phenyl)-4-oxo-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl]-2-methoxy-phenoxy}-azetidine-1-carboxylic acid tert-butyl ester | 6.16 mmol, 3.33 g | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(CC1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C27H28ClN3O5S
reactant | trifluoroacetic acid | 7.25 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | HCl dioxane | 4 N, about 200 μL | Cl.O1CCOCC1
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-[4-(Azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | 316 mg | Cl.N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(CC1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | InChI=1S/C22H20ClN3O3S.ClH/c1-28-19-10-15(6-7-18(19)29-16-11-24-12-16)26-9-8-17-20(22(26)27)30-21(25-17)13-2-4-14(23)5-3-13;/h2-7,10,16,24H,8-9,11-12H2,1H3;1H
